US06372735B1
A 1 N aqueous sodium hydroxide solution (13 ml) was added to a solution of ethyl 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylate (b-1) (3.04 g, 6.46 mmol), prepared in step (b), in tetrahydrofuran (40 ml). The mixture was stirred at room temperature for 3.5 hr. The reaction solution was diluted with ether, and water was added thereto. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate, followed by washing with water and saturated brine solution. The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxyic acid as light yellow oil (c-1′:LP) (2.55 g, 89%). The resultant 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylic acid (c-1′:LP) (1.07 g, 2.42 mmol) was dissolved in a mixed solvent composed of ethanol (50 ml) and ethyl acetate (50 ml). 10% palladium-carbon (129 mg) was added thereto. The mixture was stirred in a hydrogen atmosphere at room temperature for 4 hr. Methylene chloride was added to the reaction solution to dissolve the precipitated crystal, followed by filtration through Celite. The filtrate was concentrated under reduced pressure to give 4-(2-amino-4,5-dimethoxybenzoyl)-1-(4-methoxybenzyl)-1H-1,2,3-triazole-5-carboxylic acid (c-1: LP) (1.06 g, 100%).

reactant | 1-(4-methoxybenzyl)-4-(4,5-dimethoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylic acid | COC1=CC=C(CN2N=NC(=C2C(=O)O)C(C2=C(C=C(C(=C2)OC)OC)[N+](=O)[O-])=O)C=C1 | C20H18N4O8
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 129 mg | [C].[Pd]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-amino-4,5-dimethoxybenzoyl)-1-(4-methoxybenzyl)-1H-1,2,3-triazole-5-carboxylic acid | 1.06 g, 100% | NC1=C(C(=O)C=2N=NN(C2C(=O)O)CC2=CC=C(C=C2)OC)C=C(C(=C1)OC)OC | C20H20N4O6
